US06770625B2
Monodispersed activated hexaethylene glycol monomethyl ether was prepared analogously to that of monodispersed triethylene glycol in Example 6 above. A 20% phosgene in toluene solution (35 mL, 6.66 g, 67.4 mmol phosgene) was chilled under a N2 atmosphere in an ice/salt water bath. Monodispersed hexaethylene glycol (1.85 mL, 2.0 g, 6.74 mmol) was dissolved in 5 mL anhydrous EtOAc and added to the phosgene solution via syringe. The reaction mixture was kept stirring in the ice bath for one hour, removed and stirred a further 2.5 hours at room temperature. The phosgene, EtOAc, and toluene were removed by vacuum distillation, leaving monodispersed methyl hexaethylene glycol chloroformate as a clear, oily residue.

reactant | hexaethylene glycol monomethyl ether | COCCOCCOCCOCCOCCOCCO | C13H28O7
reactant | triethylene glycol | C(COCCOCCO)O | C6H14O4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 67.4 mmol, 35 mL, 6.66 g | C1(=CC=CC=C1)C | C7H8
reactant | hexaethylene glycol | 6.74 mmol, 1.85 mL, 2.0 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | methyl hexaethylene glycol chloroformate | ClC(=O)O.CC(COCCOCCOCCOCCOCCO)O | InChI=1S/C13H28O7.CHClO2/c1-13(15)12-20-11-10-19-9-8-18-7-6-17-5-4-16-3-2-14;2-1(3)4/h13-15H,2-12H2,1H3;(H,3,4)
